US06858638B2
(E)-3-[5(2-Methylsulfonylbenzenesulfonylamino)-1H-indazol-3-yl]acrylic acid can be obtained in the following way: 36 mg of lithium hydroxide monohydrate and 0.5 ml of distilled water are added successively to a suspension of 72 mg of methyl (E)-3-[5(2-methylsulfonylbenzenesulfonylamino)-1H-indazol-3-yl]acrylate, of 0.5 ml of tetrahydrofuran and of 0.5 ml of methanol, and the reaction mixture is stirred for 72 hours at a temperature in the region of 20° C. The medium is then diluted with 5 ml of distilled water, and acidified with 1N hydrochloric acid to a pH in the region of 2. The precipitate formed is isolated by filtration, washed with distilled water and then dried under a ventilated hood for 16 hours. 23 mg of (E)-3-[5(2-methylsulfonylbenzenesulfonylamino)-1H-indazol-3-yl]acrylic acid sesquihydrochloride are thus obtained in the form of a white solid melting at 170° C. (analysis C17H15N3O6S2.1.5 HCl % calculated C, 42.88; H, 3.49; Cl, 11.17; N, 8.83; O, 20.16; S, 13.47. % found C, 42.41; H, 3.74; N, 8.56; S, 12.83).

reactant | lithium hydroxide monohydrate | 36 mg | O.[OH-].[Li+]
reactant | methyl (E)-3-[5(2-methylsulfonylbenzenesulfonylamino)-1H-indazol-3-yl]acrylate | 72 mg | CS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)NC=1C=C2C(=NNC2=CC1)/C=C/C(=O)OC | C18H17N3O6S2
reactant | tetrahydrofuran | 0.5 ml | O1CCCC1 | C4H8O
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | water | 5 ml | O | H2O
solvent | water | 0.5 ml | O | H2O
solvent | methanol | 0.5 ml | CO | CH4O
product | (E)-3-[5(2-methylsulfonylbenzenesulfonylamino)-1H-indazol-3-yl]acrylic acid sesquihydrochloride | 23 mg | Cl.CS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)NC=1C=C2C(=NNC2=CC1)/C=C/C(=O)O.Cl.Cl.CS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)NC=1C=C2C(=NNC2=CC1)/C=C/C(=O)O | InChI=1S/2C17H15N3O6S2.3ClH/c2*1-27(23,24)15-4-2-3-5-16(15)28(25,26)20-11-6-7-13-12(10-11)14(19-18-13)8-9-17(21)22;;;/h2*2-10,20H,1H3,(H,18,19)(H,21,22);3*1H/b2*9-8+;;;
